Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ Percutaneous cholecystostomy tube

 
History of Present Illness:
___ with history of stroke, HTN, CRI, who presents with 24 hours
of acute nausea/vomiting and epigastic discomfort. The patient
has had 6 months of intermittent nausea and abdominal discomfort
associated with eating "rich foods," which always self-resolved.
In the past 24 hours, she had an acute worsening of this nausea
and vomited x2 (non-bloody, non-bilious) after dinner yesterday.
Has not eaten since, says she has no appetite. Denies outright
abdominal pain, but complains of vague epigastric discomfort and
mild bloating. Still passing flatus.  No fever/chills,
constipation, diarrhea, jaundice, rash, or puritis.

 
Past Medical History:
Stroke, mechanism unknown (___), with residual ride-sided  
weakness, multiple TIAs, HTN, CRI, L sacral decubitus ulcer  
___, now healed), R hip OA, Gout, h/o bleeding duodenal 
ulcer,  
chronic urinary incontinence  
PSH:  
Endoscopic cauterization of a bleeding duodenal ulcer ___ years  


 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Upon presentation to ___:
Vitals: 97.4, 70, 141/95, 18, 98%RA
GEN: A&O, NAD
HEENT: No scleral icterus, dry mucous membranes
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, mildly distended, nontender, no rebound or guarding,
negative ___, normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused
Neuro: A&Ox3, ___ stength by hand grip in R UE, ___ in L UE

 
Pertinent Results:
___ 05:15AM BLOOD WBC-15.1* RBC-3.48* Hgb-11.0* Hct-33.8* 
MCV-97 MCH-31.7 MCHC-32.7 RDW-13.6 Plt ___
___ 06:45AM BLOOD WBC-24.4* RBC-3.97* Hgb-12.7 Hct-38.1 
MCV-96 MCH-31.9 MCHC-33.2 RDW-13.6 Plt ___
___ 05:15AM BLOOD Plt ___
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD ___ PTT-32.6 ___
___ 05:15AM BLOOD Glucose-65* UreaN-24* Creat-1.5* Na-142 
K-3.9 Cl-109* HCO3-22 AnGap-15
___ 06:45AM BLOOD Glucose-123* UreaN-21* Creat-1.4* Na-143 
K-4.2 Cl-110* HCO3-22 AnGap-15
___ 05:15AM BLOOD ALT-10 AST-16 AlkPhos-63 Amylase-20 
TotBili-0.3
___ 05:15AM BLOOD Lipase-10
___ 05:15AM BLOOD Calcium-8.7 Phos-3.1 Mg-1.6
 
Brief Hospital Course:
She was admitted to the Acute Care Surgery Service with acute 
cholecystitis. She was made NPO, given IV fluids and started on 
IV Unasyn. A urine specimen was obtained for analysis and 
culture and eventually grew yeast - she was started on Diflucan. 
On ___ she underwent percutaneous drainage of her gallbladder 
with the drain left in place - to date there is no growth on the 
culture and gram stain.

Following her drain placement her diet was advanced and her home 
meds were restarted as well. She did experience some discomfort 
at the drain site and was ordered for Tylenol and Ultram prn 
which did help.

She is being discharged to home with visiting nurses services 
and will follow up in the Acute Care Surgery clinic in the next 
___ weeks for monitoring of drain output. It will be discussed 
again at that time whether patient and family wish to proceed 
with an interval cholecystectomy once the acute episode has 
resolved. She will also have follow up with her PCP.
 
Medications on Admission:
Ducosate 200, Senna, Remeron 7.5, Melatonin 6, Aspirin 81,  
Naprosyn prn, tylenol prn, aleve prn, nicotine patch 7 mg qd  

 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
2. Aspirin EC 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. melatonin *NF* 6 MG Oral daily Reason for Ordering: Wish to 
maintain preadmission medication while hospitalized, as there is 
no acceptable substitute drug product available on formulary.
5. Mirtazapine 7.5 mg PO HS 
6. Senna 1 TAB PO BID:PRN constipation 
7. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
8. melatonin *NF* 6 MG Oral daily Reason for Ordering: Wish to 
maintain preadmission medication while hospitalized, as there is 
no acceptable substitute drug product available on formulary.
9. Nicotine Patch 7 mg TD DAILY Start: In am 
10. Miconazole Powder 2% 1 Appl TP TID:PRN affected area 
11. Fluconazole 200 mg PO Q24H Duration: 7 Days 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Cholecystitis
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with an inflammed gallbladder 
requiring that a tube be placed into your gallbladder in order 
to drain the infected fluid. You were treated with antibiotics 
for this infection. You were also found to have a urinary tract 
infection and was started on antibiotics to treat this as well.

AVOID fatty/greasey foods.

You may resume your home mdeications as prescribed.

You may shower but no tub baths while you have the gallbladder 
catheter in place.

Be sure to keep your drainage catheter secured closeley to your 
skin. Call your doctr or return to the Emergency room if you 
notice any significant increases or decreases in the amount or 
change in character of the output compared to when you were in 
the hospital.

 
Followup Instructions:
___